US07863314B2
Preparation of 3-(5-Amino-4-cyclopentanecarbonyl-pyrazol-1-yl)-N-cyclopropyl-4-methylbenzamide
Similar procedure as in Example 17B except 3-[5-amino-4-(3-cyano-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide was used in place of 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide and cyclopentylmagnesium bromide was used in place of phenyl magnesium bromide. HPLC (4 minute 10-90 gradient) tR 2.54 min; MS m/z 353.19 [M+H]+.

reactant | 3-[5-amino-4-(3-cyano-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)C#N)=O | C22H19N5O2
reactant | cyclopentylmagnesium bromide | C1(CCCC1)[Mg]Br
product | 3-(5-Amino-4-cyclopentanecarbonyl-pyrazol-1-yl)-N-cyclopropyl-4-methylbenzamide | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(=O)C1CCCC1 | C20H24N4O2
